US04512924
In a manner analogous to that described in the first paragraph of Example 1, from 1.13 g of 8(S)-amino-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid and 2.7 g of 2-oxo-4-phenylbutyric acid there were obtained 350 mg of 8(S)-(1-carboxy-3-phenylpropylamino)-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid in the form of a lyophilized mixture.

reactant | 8(S)-amino-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid | 1.13 g | N[C@H]1CCC(N2N(C1=O)[C@@H](CC2)C(=O)O)=O | C9H13N3O4
reactant | 2-oxo-4-phenylbutyric acid | 2.7 g | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
product | 8(S)-(1-carboxy-3-phenylpropylamino)-2,3,6,7,8,9-hexahydro-5,9-dioxo-1H,5H-pyrazolo[1,2-a][1,2]diazepine-1(S)-carboxylic acid | 350 mg | C(=O)(O)C(CCC1=CC=CC=C1)N[C@H]1CCC(N2N(C1=O)[C@@H](CC2)C(=O)O)=O | C19H23N3O6
